US08980937B2
To the solution of 1-{2-chloro-4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]phenyl}methanamine (0.12 g) and triethylamine (0.04 g) in tetrahydrofuran was added dropwise acetyl chloride (0.02 g), and the mixture was stirred for one hour at room temperature. The reaction solution was diluted with t-butylmethylether and then washed with water and brine. The organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled away under the reduced pressure, and the residue was then purified by silica gel chromatography to yield N-{2-chloro-4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]benzyl}acetamide (0.1 g). 1H-NMR (CDCl3) δ: 1.98-2.01 (3H, m), 2.50-2.58 (1H, m), 2.82-2.87 (1H, m), 3.45-3.51 (2H, m), 3.74 (1H, d), 4.02 (1H, d), 4.41 (2H), 6.43-6.46 (1H, m), 6.58-6.59 (1H, m), 7.26-7.38 (4H, m)

reactant | 1-{2-chloro-4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]phenyl}methanamine | 0.12 g | ClC1=C(C=CC(=C1)N1CC(CC1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)CN | C18H16Cl3F3N2
reactant | triethylamine | 0.04 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.02 g | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | t-butylmethylether | C(C)(C)(C)OC | C5H12O
product | N-{2-chloro-4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]benzyl}acetamide | 0.1 g | ClC1=C(CNC(C)=O)C=CC(=C1)N1CC(CC1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C20H18Cl3F3N2O
